US07163940B2
A solution of N-butyl-4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine (0.15 g, 0.38 mmol) in allylamine (5 mL, 67 mmol) was heated at 85° C. in a sealed tube for 88 hours. After cooling and concentrating the reaction mixture, flash chromatography (4:1 hexanes-ethyl acetate) afforded N-allyl-3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine (0.14 g, 88%) as a pale yellow foam. 1H NMR (CDCl3): δ 7.89 (broad, 1H), 7.78 (d, 1H), 7.62 (m, 2H), 7.36 (t, 1H), 7.16 (t, 2H), 6.31–6.26 (m, 2H), 6.09–5.92 (m, 2H), 5.39–5.24 (m, 2H), 4.06 (t, 2H), 3.50 (q, 2H), 1.72–1.41 (m, 4H), 0.98 (t, 3H); 19F NMR (CDCl3) δ −113.16; MS m/z 417 (M+1); Anal. Calcd for C24H25FN6: C, 69.21; H, 6.05; N, 20.18. Found: C, 69.27; H, 6.07; N, 20.03.

reactant | N-butyl-4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine | 0.38 mmol, 0.15 g | C(CCC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2Cl)C2=CC=C(C=C2)F | C21H19ClFN5
reactant | allylamine | 67 mmol, 5 mL | C(C=C)N | C3H7N
product | N-allyl-3-[2-(butylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine | 0.14 g, 88% | C(C=C)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NCCCC)C2=CC=C(C=C2)F | C24H25FN6
